US09085578B2
A) N-(2-cyano-6-fluorophenyl)-3-oxobutanamide
To a mixture of 2-amino-3-fluorobenzonitrile (41.9 g), sodium acetate (30.3 g) and toluene (200 mL) was added diketene (28.2 mL) over 10 min at 0° C. The reaction mixture was stirred at room temperature for 7 hr. To the reaction mixture were added toluene (150 mL) and diketene (4.7 mL) at room temperature, and the mixture was stirred at room temperature for 16 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed successively with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was recrystallized from diisopropyl ether/ethanol to give the title compound (48.64 g).

reactant | 2-amino-3-fluorobenzonitrile | 41.9 g | NC1=C(C#N)C=CC=C1F | C7H5FN2
reactant | sodium acetate | 30.3 g | C(C)(=O)[O-].[Na+]
reactant | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
reactant | diketene | 28.2 mL | C=C1CC(=O)O1 | C4H4O2
reactant | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
reactant | diketene | 4.7 mL | C=C1CC(=O)O1 | C4H4O2
solvent | water | O | H2O
product | N-(2-cyano-6-fluorophenyl)-3-oxobutanamide | 48.64 g | C(#N)C1=C(C(=CC=C1)F)NC(CC(C)=O)=O | C11H9FN2O2
